US20010007867A1
7-(1-Ethyl-propoxy)-2,5-dimethyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo [1.5-a]pyrimidine
To a suspension of 60% Sodium hydride in oil (160 mg) in 4 ml of DMSO was added 3-pentanol (853 mg), and then 7-chloro-2,5-dimethyl3(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (580 mg) at room temperature. The mixture was heated at 88° C. overnight. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated and purified through silica gel column chromatography using 10% hexarie in chloroform as eluent to give the title compound as an orange oil. 1H NMR (CDCl3) δ6.96(s,2H), 5.95(s,1H), 4.52(m,1H), 2.48(s,3H), 2.33(s,3H), 2.27(s,3H), 2.03(s,6H), 1.75-2.00(m,4H), 1.08(t,6H)ppm.

reactant | Sodium hydride | [H-].[Na+]
reactant | 3-pentanol | 853 mg | CCC(CC)O | C5H12O
reactant | 7-chloro-2,5-dimethyl3(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 580 mg | ClC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C | C17H18ClN3
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | 7-(1-Ethyl-propoxy)-2,5-dimethyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo [1.5-a]pyrimidine | C(C)C(CC)OC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C | C22H29N3O
